US07960369B2
3-[4-[[3-(biphenyl-3-ylamino)benzyl]oxy]phenyl]propanoic acid
The title compound was synthesized in the same manner as in Example 298 from methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate and biphenyl-3-ylamine. colorless crystals (yield 6%).

reactant | methyl 3-[4-[(3-bromobenzyl)oxy]phenyl]propanoate | BrC=1C=C(COC2=CC=C(C=C2)CCC(=O)OC)C=CC1 | C17H17BrO3
reactant | biphenyl-3-ylamine | C1(=CC(=CC=C1)N)C1=CC=CC=C1 | C12H11N
product | 3-[4-[[3-(biphenyl-3-ylamino)benzyl]oxy]phenyl]propanoic acid | C1(=CC(=CC=C1)NC=1C=C(COC2=CC=C(C=C2)CCC(=O)O)C=CC1)C1=CC=CC=C1 | C28H25NO3
